### PR TITLE
[Merged by Bors] - feat: add WeierstrassCurve.exists_variableChange_lift

### PR DESCRIPTION
**Pull request by riccardobrasca**
We add `WeierstrassCurve.exists_variableChange_lift`, a variable change over the fraction field between integral Weierstrass equations descends to the
base ring if its `u` coefficient descends to a unit of the base ring.

---

A first version of the code has been generated by Claude, but it has gone through extensive review by me before opening the PR.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/EllipticCurve/Reduction.lean [hunk 1]
```diff
@@ -201,6 +201,39 @@ theorem exists_isIntegral (W : WeierstrassCurve K) :
...
+      using variableChange_s_relation W Ch
+  obtain ⟨tR, htR⟩ : ∃ tR : R, algebraMap R K tR = Ch.t := by
+    refine IsIntegrallyClosed.isIntegral_iff.mp ⟨X ^ 2 + C (I.a₃ + rR * I.a₁) * X +
+      C (uR ^ 6 * I'.a₆ - I.a₆ - rR * I.a₄ - rR ^ 2 * I.a₂ - rR ^ 3), by monicity!, ?_⟩
+    simpa [huR, hrR, I, I', integralModel_a₁_eq, integralModel_a₂_eq, integralModel_a₃_eq,
+      integralModel_a₄_eq, integralModel_a₆_eq, ← hCh] using variableChange_t_relation W Ch
+  refine ⟨⟨uR, rR, sR, tR⟩, ?_⟩
+  ext <;> simp_all [VariableChange.baseChange, VariableChange.map]
+
+end VariableChangeLift
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Reduction.lean]: We should split the lemmas into multiple `u_integral` lemmas:
```suggestion
section UIntegral

open Polynomial

variable {R : Type*} [CommRing R] [IsDomain R] [IsDiscreteValuationRing R] {K : Type*} [Field K]
  [Algebra R K] [IsFractionRing R K] {W W' : WeierstrassCurve K} [IsIntegral R W] [IsIntegral R W']
  {CK : VariableChange K} (hCK : CK • W = W') {u : Rˣ} (hu : algebraMap R K u = CK.u)

include hCK hu

lemma r_integral_of_u_integral : ∃ r : R, algebraMap R K r = CK.r := by
  refine IsIntegrallyClosed.isIntegral_iff.mp ⟨X ^ 4 - C (integralModel R W).b₄ * X ^ 2 -
    C (u ^ 6 * (integralModel R W').b₆ + 2 * (integralModel R W).b₆) * X -
    C ((integralModel R W).b₈ - u ^ 8 * (integralModel R W').b₈), by monicity!, ?_⟩
  simp [map_ofNat, hu, ← hCK, variableChange_b₆, variableChange_b₈]
  grind

lemma s_integral_of_u_integral : ∃ s : R, algebraMap R K s = CK.s := by
  rcases r_integral_of_u_integral hCK hu with ⟨r, hr⟩
  refine IsIntegrallyClosed.isIntegral_iff.mp ⟨X ^ 2 + C (integralModel R W).a₁ * X +
    C (u ^ 2 * (integralModel R W').a₂ - (integralModel R W).a₂ - 3 * r), by monicity!, ?_⟩
  simp [map_ofNat, hu, hr, ← hCK, variableChange_a₂]
  grind

lemma t_integral_of_u_integral : ∃ t : R, algebraMap R K t = CK.t := by
  rcases r_integral_of_u_integral hCK hu with ⟨r, hr⟩
  refine IsIntegrallyClosed.isIntegral_iff.mp ⟨X ^ 2 +
    C ((integralModel R W).a₃ + r * (integralModel R W).a₁) * X +
    C (u ^ 6 * (integralModel R W').a₆ - (integralModel R W).a₆ - r * (integralModel R W).a₄
      - r ^ 2 * (integralModel R W).a₂ - r ^ 3), by monicity!, ?_⟩
  simp [hu, hr, ← hCK, variableChange_a₆]
  grind

/-- A variable change over the fraction field between integral Weierstrass equations descends to the
base ring if its `u` coefficient descends to a unit of the base ring. -/
theorem variableChange_integral_of_u_integral : ∃ CR : VariableChange R, CR.baseChange K = CK := by
  rcases r_integral_of_u_integral hCK hu, s_integral_of_u_integral hCK hu,
    t_integral_of_u_integral hCK hu with ⟨⟨r, hr⟩, ⟨s, hs⟩, ⟨t, ht⟩⟩
  exact ⟨⟨u, r, s, t⟩, by ext <;> simpa⟩

end UIntegral
```
Now you don't need the relations in the other file which seem completely arbitrary.

**Review by Multramate — CHANGES_REQUESTED** [review]
LGTM otherwise

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
